US04550105
In a mixture of 2 ml of tetrahydrofuran and 2 ml of water is dissolved 185.5 mg of methyl cis-3-amino-2-oxoazetidine-4-carboxylate and under ice-cooling and stirring 469.6 mg of sodium hydrogen carbonate and successively, 600 mg of 2-(2-chloroacetamido-4-thiazolyl)-(Z)-allyloxyiminoacetyl chloride hydrochloride is added. The mixture is stirred at room temperature for 2 hours and concentrated under reduced pressure. To the residue is added 20 ml of water and the insolubles are collected by filtration, washed with aqueous sodium hydrogen carbonate, water, hexane and ether in this order, and dried to give methyl cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-allyloxyiminoacetamido]-2-oxoazetidine-4-carboxylate (syn isomer) as light-yellow granules, m.p. 270°-280° C. (decomp.).

reactant | methyl cis-3-amino-2-oxoazetidine-4-carboxylate | 185.5 mg | N[C@@H]1C(N[C@@H]1C(=O)OC)=O | C5H8N2O3
reactant | sodium hydrogen carbonate | 469.6 mg | C(O)([O-])=O.[Na+]
reactant | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-allyloxyiminoacetyl chloride hydrochloride | 600 mg | Cl.ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OCC=C
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | methyl cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-allyloxyiminoacetamido]-2-oxoazetidine-4-carboxylate | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N[C@@H]1C(=O)OC)=O)=NOCC=C | C15H16ClN5O6S
